US06835468B2
Synthesis of 9-n-hexyl fluorene (M-13)
In a 2 liter three-neck flask equipped with a stirrer and a thermometer, 100 g (0.6 mol) of fluorene was dissolved in 1 l of tetrahydrofuran and the flask was cooled sufficiently to −78° C. With an injector, 264 ml (1.32 mol) of 2.5M n-butyl lithium which was diluted in hexane was slowly added dropwise into the flask. When the addition of the same was finished, the above cooled temperature was maintained for thirty minutes, and then the flask was stirred at room temperature for one hour. Then again the resultant material was cooled down to −78° C. 88.44 ml (1.26 mol) of hexyl bromide was added into the flask using an injector. When the above procedure was finished, after keeping the temperature for thirty minutes, the flask was stirred at room temperature for 24 hours. When the reaction was finished, a small amount of cooled distilled water was poured to the resultant solution and the resultant solution was stirred for 2 to 3 minutes. When layers were separated, the organic layer was extracted using ether three times and it was washed by water several times. Then the resultant materials were dried using anhydrous magnesium sulfate and after removing the solvent, the resultant materials were purified with column, to obtain 132 g (88% t yield) of the entitled product as a pale yellowish viscous oil. 1H-NMR (CDCl3) δ 0.6-1.41 (m, 8H, CH2, 3H, CH3), 2.08-2.12 (m, 4H, CCH2), 4.07-4.18 (t, 1H, CH), 7.39-7.92 (m, 8H, Aromatic).

reactant | fluorene | 0.6 mol, 100 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyl lithium | 1.32 mol, 2.5M, 264 ml | C(CCC)[Li]
reactant | hexyl bromide | 1.26 mol, 88.44 ml | C(CCCCC)Br | C6H13Br
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 9-n-hexyl fluorene | C(CCCCC)C1C2=CC=CC=C2C=2C=CC=CC12 | C19H22
